US06432955B1
92d. 1-[2-(R)-Ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl]-pyrroidine-2-(S)-carboxylic acid
A mixture of 1-[2-(R)-ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl-]-pyrrolidine-2-(S)-carboxylic acid methyl ester (0.45 g) and 0.06 g of LiOH in 6 mL of methanol and 1 mL of water was stirred for 16 h at ambient temperature. KHSO4 was added, the volatiles were pumped off followed by addition of water, extraction with ethyl acetate and concentration of the organic layer to give 0.34 g (79%) of the title compound as a colorless oil. (+)-APCI-MS: 361 (MH+).

reactant | 1-[2-(R)-ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl-]-pyrrolidine-2-(S)-carboxylic acid methyl ester | 0.45 g | COC(=O)[C@H]1N(CCC1)C([C@H](C(C)(C)SC(C)C)NC(=O)OCC)=O | C17H30N2O5S
reactant | LiOH | 0.06 g | [Li+].[OH-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 1-[2-(R)-Ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyryl]-pyrroidine-2-(S)-carboxylic acid | 0.34 g, 79% | C(C)OC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)O)C(C)(C)SC(C)C | C16H28N2O5S
